US06531478B2
Benzotriazol-1-yloxytripyrrolid inophosphonium hexafluorophosphate (0.136 g, 0.26 mmol) was added to a solution of 4-(5-benzenesulfonylamino-1-phenyl-1H-pyrazole-3-yl)-benzoic acid (0.10 g, 0.24 mmol) and N,N-diisopropylethylamine (0.062 ml, 0.36 mmol) in N,N-dimethylformamide (2 ml). 1-Hydroxybenzotriazole hydrate (30 mg, 0.24 mmol) and 4-(N,N-dimethylamino)pyridine (catalytic) were added and the resulting solution was stirred at room temperature for 3 hours. Water (7 ml) was added, and a precipitate was collected by filtration and washed with water. The solid was purified by preparative thin layer silica gel chromatography, using 2% methanol in dichloromethane as the eluant, to yield N-Phenyl-4-[1-phenyl-5-[(phenylsulfonyl)amino]-1H-pyrazol-3-yl]benzamide as a colorless solid.

reactant | Benzotriazol-1-yloxytripyrrolid inophosphonium hexafluorophosphate | 0.26 mmol, 0.136 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 4-(5-benzenesulfonylamino-1-phenyl-1H-pyrazole-3-yl)-benzoic acid | 0.24 mmol, 0.10 g | C1(=CC=CC=C1)S(=O)(=O)NC1=CC(=NN1C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C22H17N3O4S
reactant | N,N-diisopropylethylamine | 0.36 mmol, 0.062 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Hydroxybenzotriazole hydrate | 0.24 mmol, 30 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | Water | 7 ml | O | H2O
product | N-Phenyl-4-[1-phenyl-5-[(phenylsulfonyl)amino]-1H-pyrazol-3-yl]benzamide | C1(=CC=CC=C1)NC(C1=CC=C(C=C1)C1=NN(C(=C1)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H22N4O3S
